US06432993B1
2-Hydroxymethyl-5-(4-hydroxy-2,3,5-trimethylphenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine
A mixture of 288 g of 6-(4-methoxymethoxy-2,3,5-trimethylphenoxy)-2-methylamino-3-nitropyridine, 14 g of 10% palladium on carbon and 1500 ml of methanol was stirred at room temperature for 2 hours under a hydrogen atmosphere. To the reaction mixture, 14 g of 10% palladium on carbon, 500 ml of methanol and 500 ml of tetrahydrofuran were added and the resulting mixture was stirred at 50° C. for 8 hours under a hydrogen atmosphere. The palladium on carbon in the reaction mixture was filtered off and the filtrate was concentrated by evaporation. To the residue, 500 g of glycolic acid were added and the mixture was stirred at 150° C. for 6 hours. To the reaction mixture, 1000 ml of a 4N aqueous hydrochloric acid solution were added and the mixture was stirred at 120° C. for one hour. The reaction mixture was allowed to stand overnight at room temperature. The reaction mixture was poured into iced water, followed by neutralization with an aqueous sodium hydroxide solution and an aqueous sodium carbonate solution. The resulting solid substance was separated by filtration and purified by chromatography through a silica gel column with tetrahydrofuran as an eluting solvent. The resulting solid substance from the eluate was washed with ethanol, whereby 45.5 g of the title compound were obtained.

reactant | 6-(4-methoxymethoxy-2,3,5-trimethylphenoxy)-2-methylamino-3-nitropyridine | 288 g | COCOC1=C(C(=C(OC2=CC=C(C(=N2)NC)[N+](=O)[O-])C=C1C)C)C | C17H21N3O5
reactant | methanol | 1500 ml | CO | CH4O
reactant | methanol | 500 ml | CO | CH4O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 14 g | [Pd] | Pd
catalyst | palladium on carbon | 14 g | [Pd] | Pd
product | 2-Hydroxymethyl-5-(4-hydroxy-2,3,5-trimethylphenoxy)-3-methyl-3H-imidazo[4,5-b]pyridine | 45.5 g | OCC1=NC=2C(=NC(=CC2)OC2=C(C(=C(C(=C2)C)O)C)C)N1C | C17H19N3O3
